US05523404
Methyl 3-amino-2-chloro-2-pentenoate
A solution of 576.1 g (3.5 mol) of methyl 2-chloro-3-oxovalerate and 674.5 g (8.75 mol) of ammonium acetate in 1.2 l of methanol is heated at 65° C. with stirring for a period of 4 h. After cooling, the solvent is removed in vacuo, the residue is taken up in 2.5 l of diisopropyl ether, and the solid is removed. The solid is dissolved in a little water and subsequently extracted with ethyl acetate. The organic fractions are combined, dried over MgSO4 and evaporated in vacuo. Yield: 94.7% [GC]

reactant | methyl 2-chloro-3-oxovalerate | 3.5 mol, 576.1 g | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
reactant | ammonium acetate | 8.75 mol, 674.5 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 1.2 l | CO | CH4O
product | Methyl 3-amino-2-chloro-2-pentenoate | Yield: 94.7% | NC(=C(C(=O)OC)Cl)CC | C6H10ClNO2
